US09079911B2
Intermediate 88: 4-Methoxy-2-(pyrimidin-2-yl)benzoic acid
4-Methoxy-2-(pyrimidin-2-yl)benzonitrile (85 mg, 0.4 mmol) was dissolved in MeOH (20 mL) was treated with 2M aq NaOH (15 mL). The reaction was heated at reflux overnight, the reaction was cooled to room temperature and filtered to remove the solids and washed with cold MeOH. The filtrate was concentrated to minimum volume and then acidified to pH=3 with 6 N aq. HCl and cooled to 0° C. then filtered and washed with cold water. This material was used crude in subsequent reactions.

reactant | 4-Methoxy-2-(pyrimidin-2-yl)benzonitrile | 0.4 mmol, 85 mg | COC1=CC(=C(C#N)C=C1)C1=NC=CC=N1 | C12H9N3O
reactant | NaOH | 2M, 15 mL | [OH-].[Na+]
reactant | MeOH | 20 mL | CO | CH4O
product | 4-Methoxy-2-(pyrimidin-2-yl)benzoic acid | COC1=CC(=C(C(=O)O)C=C1)C1=NC=CC=N1 | C12H10N2O3
